US09447078B2
Preparation of (R)-benzyl 4-(((6-(3-amino-1-hydroxypropyl)pyridin-2-yl)oxy)methyl)piperidine-1-carboxylate
Borane-dimethylsulfide reduction of (R)-benzyl 4-(((6-(2-cyano-1-hydroxyethyl)pyridin-2-yl)oxy)methyl)piperidine-1-carboxylate following the method described in Example 2 gave after flash chromatography purification (30%-40% 7N NH3/MeOH—CH2Cl2 gradient) Example 36 as a colorless oil. Yield (0.27 g, 27%); 1H NMR (400 MHz, CD3OD) δ 7.63 (t, J=8.4 Hz, 1H), 7.38-7.25 (m, 5H), 7.03 (d, J=7.2 Hz, 1H), 6.62 (d, J=8.0 Hz, 1H), 5.10 (s, 2H), 4.70-4.62 (m, 1H), 4.21-4.10 (m, 4H), 2.88-2.78 (m, 4H), 2.02-1.70 (m, 5H), 1.34-1.20 (m, 2H); RP-HPLC tR=9.40 min; ESI-MS m/z 400.3 [M+H]+.

reactant | Borane dimethylsulfide | B.CSC
reactant | (R)-benzyl 4-(((6-(2-cyano-1-hydroxyethyl)pyridin-2-yl)oxy)methyl)piperidine-1-carboxylate | C(#N)C[C@@H](O)C1=CC=CC(=N1)OCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C22H25N3O4
reactant | NH3 MeOH CH2Cl2 | 7N | N.CO.C(Cl)Cl
product | (R)-benzyl 4-(((6-(3-amino-1-hydroxypropyl)pyridin-2-yl)oxy)methyl)piperidine-1-carboxylate | NCC[C@@H](O)C1=CC=CC(=N1)OCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C22H29N3O4
